US04458076
3-{1-[4,4-bis-(4-Fluorophenyl)-1-butyl]-4-piperidinyl}-1,2-benzisothiazole hydrochloride
A mixture of 5.0 g of 3-(4-piperidinyl)-1,2-benzisothiazole, 7.70 g of 4-chloro-1,1-bis(4-fluorophenyl)butane, 7.0 g of potassium carbonate, 0.25 g of potassium iodide and 120 ml of dimethylformamide was stirred at 90° for 8.0 hrs and overnight at ambient temperature. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield an oil. The product was purified by high-pressure liquid chromatography using dichloromethane:methanol (2%) as the eluent. The eluent was evaporated, the residue was dissolved in ether and a saturated hydrogen chloride/ether solution was added dropwise to yield a solid. The solid was recrystallized from ethyl acetate/ether to give 2.0 g (21%) of product, mp 198°-199°.

reactant | 3-(4-piperidinyl)-1,2-benzisothiazole | 5.0 g | N1CCC(CC1)C1=NSC2=C1C=CC=C2 | C12H14N2S
reactant | 4-chloro-1,1-bis(4-fluorophenyl)butane | 7.70 g | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.25 g | [I-].[K+]
solvent | water | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 3-{1-[4,4-bis-(4-Fluorophenyl)-1-butyl]-4-piperidinyl}-1,2-benzisothiazole hydrochloride | 2.0 g, 21% | Cl.FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C1=NSC2=C1C=CC=C2)C2=CC=C(C=C2)F | InChI=1S/C28H28F2N2S.ClH/c29-23-11-7-20(8-12-23)25(21-9-13-24(30)14-10-21)5-3-17-32-18-15-22(16-19-32)28-26-4-1-2-6-27(26)33-31-28;/h1-2,4,6-14,22,25H,3,5,15-19H2;1H
